US07071220B2
Synthesis of Methyl 4-(5-methyl-3-methylbenzo[b]thiophene-2-sulfonylamino)-3-methanesulfonylbenzoate (Compound 18)
Into 8.0 mL of THF was dissolved 183 mg of methyl 4-amino-3-methanesulfonylbenzoate, followed by addition of 96 mg of sodium hydride (oily, 60%) at 0° C. After 20 minutes of stirring at the same temperature, 250 mg of 2-chlorosulfonyl-5-methyl-3-methylbenzo[b]thiophene was added at 0° C., followed by 6 hours of stirring at room temperature. After confirmation of disappearance of the starting material, the reaction was terminated by adding 1 mol/L hydrochloric acid at 0° C., followed by extraction with chloroform. The organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate. The solvent was removed by evaporation and then the residue was purified by silica gel column chromatography (ethyl acetate/hexane=3/1 to 1/1) to obtain 181 mg of the title compound as colorless powder.

reactant | methyl 4-amino-3-methanesulfonylbenzoate | 183 mg | NC1=C(C=C(C(=O)OC)C=C1)S(=O)(=O)C | C9H11NO4S
reactant | sodium hydride | 96 mg | [H-].[Na+]
reactant | 2-chlorosulfonyl-5-methyl-3-methylbenzo[b]thiophene | 250 mg | ClS(=O)(=O)C1=C(C2=C(S1)C=CC(=C2)C)C | C10H9ClO2S2
solvent | THF | 8.0 mL | C1CCOC1 | C4H8O
product | Methyl 4-(5-methyl-3-methylbenzo[b]thiophene-2-sulfonylamino)-3-methanesulfonylbenzoate | 181 mg | CC1=CC2=C(SC(=C2C)S(=O)(=O)NC2=C(C=C(C(=O)OC)C=C2)S(=O)(=O)C)C=C1 | C19H19NO6S3
